US08114872B2
[2-(6-Fluoro-4-iodo-pyridin-3-yloxy)-ethyl]-carbamic acid tert-butyl ester
Add diisopropylethylamine (0.23 g, 1.77 mmol) to a solution of 2-(6-fluoro-4-iodo-pyridin-3-yloxy)-ethylamine (0.25 g, 0.89 mmol) and di-tert-butyldicarbonate (0.29 g, 1.33 mmol) in 5 mL of DCM. Stir the mixture overnight at RT. Dilute the mixture with DCM, wash the organic layer with saturated aqueous sodium chloride, dry over sodium sulfate, and concentrate in vacuo give a crude oil. Purify by column chromatography (30% ethyl acetate in hexane) to afford the title compound (0.33 g, 97%). 1H NMR (400 MHz, CDCl3) δ 1.41 (s, 9H), 3.56 (t, J=5.2 Hz, 2H), 4.10 (t, J=5.2 Hz, 2H), 5.07 (s, 1H), 7.34 (d, J=3.6 Hz, 1H), 7.69 (d, J=1.6 Hz, 1H).

reactant | diisopropylethylamine | 1.77 mmol, 0.23 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(6-fluoro-4-iodo-pyridin-3-yloxy)-ethylamine | 0.89 mmol, 0.25 g | FC1=CC(=C(C=N1)OCCN)I | C7H8FIN2O
reactant | di-tert-butyldicarbonate | 1.33 mmol, 0.29 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [2-(6-Fluoro-4-iodo-pyridin-3-yloxy)-ethyl]-carbamic acid tert-butyl ester | 0.33 g, 97% | C(C)(C)(C)OC(NCCOC=1C=NC(=CC1I)F)=O | C12H16FIN2O3
